US07550474B2
f. 2,2-Difluoro-2-(5-methyl-pyridin-2-yl)-ethanol
To a solution of difluoro-(5-methyl-pyridin-2-yl)-acetic acid ethyl ester (10.5 g, 0.05 mol), as prepared in the previous step, in EtOH (98 mL) cooled to 0° C. was added NaBH4 (3.7 g, 0.098 mol, 2×). After 3 h the reaction was carefully quenched with saturated NH4Cl (100 mL) and partitioned with EtOAc (200 mL). The organic phase was dried over Na2SO4 and concentrated in vacuo to afford the product as a white solid (8.5 g, 0.05 mol, 100% crude yield). 1H NMR (300 Hz, CDCl3) δ 8.43 (s, 1H), 7.66 (m, 2H), 4.22 (t, J=12.3 Hz), 2.41 (s, 1H); LC/MS (m/z) [M+1]+ 174.1 (calculated for C8H10F2NO, 174.2).

reactant | difluoro-(5-methyl-pyridin-2-yl)-acetic acid ethyl ester | 0.05 mol, 10.5 g | C(C)OC(C(C1=NC=C(C=C1)C)(F)F)=O | C10H11F2NO2
reactant | NaBH4 | 0.098 mol, 3.7 g | [BH4-].[Na+]
solvent | EtOH | 98 mL | CCO | C2H6O
product | 2,2-Difluoro-2-(5-methyl-pyridin-2-yl)-ethanol | 0.05 mol, 8.5 g | FC(CO)(C1=NC=C(C=C1)C)F | C8H9F2NO
